US08614238B2
4-(Imidazo[1,2-a]pyridin-2-yl)-phenylamine
4.50 g (18.8 mmol) 2-(4-Nitro-phenyl)-imidazo[1,2-a]pyridine and 0.45 g Raney-Nickel are stirred at RT under hydrogen (50 psi) in 50 mL ethanol and 50 mL ethyl acetate. The mixture is filtered and the solvent is evaporated.

reactant | 2-(4-Nitro-phenyl)-imidazo[1,2-a]pyridine | 18.8 mmol, 4.50 g | [N+](=O)([O-])C1=CC=C(C=C1)C=1N=C2N(C=CC=C2)C1 | C13H9N3O2
solvent | ethanol | 50 mL | C(C)O | C2H6O
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
catalyst | Raney-Nickel | 0.45 g | [Ni] | Ni
product | 4-(Imidazo[1,2-a]pyridin-2-yl)-phenylamine | N=1C(=CN2C1C=CC=C2)C2=CC=C(C=C2)N | C13H11N3
